US08309567B2
Triphenylphosphine (5.16 g) was dissolved in tetrahydrofuran (130 ml) and the solution was cooled to 0° C. under argon. Diisopropylazodicarboxylate (3.82 ml) was added dropwise over 10 min and the resulting mixture was stirred at 0° C. for 20 min (formation of a white precipitate). N-(4-Chloro-2-iodo-phenyl)-2,2,2-trifluoro-acetamide (5.5 g) was added as a solid, followed by 4-hydroxymethyl-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (J. Org. Chem. 2001, 66, 5545-5551, 3.4 g) dissolved in a minimum volume of tetrahydrofuran. The reaction mixture was allowed to warm to room temperature and stirred for 12 hours. The solution was then concentrated in vacuo and the residue subjected to silica gel chromatography (cyclohexane:ethyl acetate 9:1) to afford 4-{[(4-chloro-2-iodo-phenyl)-(2,2,2-trifluoro-acetyl)-amino]-methyl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (4.7 g). 1H NMR (600 MHz, CDCl3) 1.5 (s, 9H), 2.20 (m, 2H), 3.49 (m, 1H), 3.50 (d, J=17 Hz, 1H), 3.55 (m, 1H), 3.8-3.9 (m, 1H), 5.02 (d, J=17 Hz, 1H), 5.40 (s, 1H), 7.0 (m, 1H), 7.38 (dd, 1H), 7.92 (d, 1H); MS (ES+) 445/447 (M+H+—CO2-isobutene), 486/488 (M+H+-isobutene).

reactant | Triphenylphosphine | 5.16 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropylazodicarboxylate | 3.82 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | N-(4-Chloro-2-iodo-phenyl)-2,2,2-trifluoro-acetamide | 5.5 g | ClC1=CC(=C(C=C1)NC(C(F)(F)F)=O)I | C8H4ClF3INO
reactant | 4-hydroxymethyl-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 3.4 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)CO | C11H19NO3
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
product | 4-{[(4-chloro-2-iodo-phenyl)-(2,2,2-trifluoro-acetyl)-amino]-methyl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 4.7 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)CN(C(C(F)(F)F)=O)C1=C(C=C(C=C1)Cl)I | C19H21ClF3IN2O3
